US05885990
Preparation of methyl 2-hydroxy-6-bromo-1-naphthylacetate:
126.5 Grams of 2-hydroxy-6-bromo-1-naphthylacetic acid, 700 ml of methanol and 2 ml of concentrated sulfuric acid were stirred at room temperature for 24 hours. Then, the reaction mixture was concentrated under reduced pressure. The precipitate was collected by filtration and washed with small amounts of methanol and water to obtain 125.5 g of the desired product.

reactant | 2-hydroxy-6-bromo-1-naphthylacetic acid | OC1=C(C2=CC=C(C=C2C=C1)Br)CC(=O)O | C12H9BrO3
reactant | sulfuric acid | 2 ml | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 700 ml | CO | CH4O
product | methyl 2-hydroxy-6-bromo-1-naphthylacetate | 125.5 g | OC1=C(C2=CC=C(C=C2C=C1)Br)CC(=O)OC | C13H11BrO3
